US08242104B2
To a solution of imidazole (81.6 g, 1.2 mol) in dry THF (2.5 L) was slowly added NaH (86.4 g, 3.6 mol) in small portions at −78° C. After all NaH was added, the mixture was stirred at −78° C. for 30 min, and 2-chloro-tetrahydropyran solution, prepared by hydrogen chloride gas treatment of dihydropyran, was added to the reaction mixture dropwise. The mixture was slowly warmed to r.t. and it was stirred at r.t. for 2 h. Methanol was added to quench the excess NaH. The mixture was concentrated with a rotary evaporator. Water was added and it was extract with EtOAc (500 mL×3), dried over MgSO4, and purified by neutral Al2O3 column chromatography (petroleum ether 5 L, petroleum ether:CH2Cl2=10:1, petroleum ether:CH2Cl2=3:1, CH2Cl2 and EtOAc). The last four fractions were pooled and concentrated to give 1-(tetrahydro-pyran-2-yl)-1H-imidazole (140 g, 76%). 1H NMR (CDCl3): δ 7.65 (s, 1H), 7.08 (s, 1H), 7.05 (s, 1H), 5.20 (dd, J=2.6, 9.5 Hz, 1H), 4.05-4.02 (m, 1H), 3.68-3.62 (m, 1H), 2.01-1.89 (m, 3H), 1.69-1.60 (m, 3H)

reactant | imidazole | 1.2 mol, 81.6 g | N1C=NC=C1 | C3H4N2
reactant | NaH | 3.6 mol, 86.4 g | [H-].[Na+]
reactant | 2-chloro-tetrahydropyran | ClC1OCCCC1 | C5H9ClO
reactant | hydrogen chloride | Cl | ClH
reactant | dihydropyran | O1CCCC=C1 | C5H8O
solvent | THF | 2.5 L | C1CCOC1 | C4H8O
solvent | Methanol | CO | CH4O
product | 1-(tetrahydro-pyran-2-yl)-1H-imidazole | 140 g, 76% | O1C(CCCC1)N1C=NC=C1 | C8H12N2O
